US08022209B2
Step A: Preparation of 4-(4,6-Dichloro-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
Cyanuric chloride (2.22 g, 12.0 mmol) in acetone (50 mL) was added to well-stirred ice water (72 mL). To the resulting fine slurry at 0° C. was slowly added a solution of 1-Boc-piperazine (2.24 g, 12.0 mmol) in acetone (20 mL). A solution of NaHCO3 (1.0 g) in water (20 mL) was slowly added to the mixture, which was subsequently stirred at 0° C. for an additional 2.5 h. The resulting precipitate was collected by filtration, washed with water, and dried to yield a white solid, which was used without further purification.

reactant | Cyanuric chloride | 12.0 mmol, 2.22 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 1-Boc-piperazine | 12.0 mmol, 2.24 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaHCO3 | 1.0 g | C(=O)(O)[O-].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 20 mL | O | H2O
product | 4-(4,6-Dichloro-[1,3,5]triazin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=N1)Cl)Cl | C12H17Cl2N5O2
